### PR TITLE
chore: reduce technical debt in FreimanHom

### PR DESCRIPTION
**Pull request by jcommelin**
This PR reduces technical debt related to the `CommRing` instance on `Fin (n + 1)`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/Additive/FreimanHom.lean [hunk 1]
```diff
@@ -378,48 +381,84 @@ lemma IsMulFreimanIso.prodMap (h₁ : IsMulFreimanIso n A₁ B₁ f₁) (h₂ :
...
+/-- **No wrap-around principle**.
 
-private lemma aux (hm : m ≠ 0) (hkmn : m * k ≤ n) : k < (n + 1) :=
-  Nat.lt_succ_iff.2 <| le_trans (Nat.le_mul_of_pos_left _ hm.bot_lt) hkmn
+A set of elements of `Fin (n + 1)` is `m`-Freiman isomorphic to its image in `ℕ`
+if all elements of the set are at most `k` and `m * k ≤ n`, i.e. there is no wrap-around. -/
+lemma isAddFreimanIso_image_val (hm : m ≠ 0) (hkmn : m * k ≤ n) (S : Set (Fin (n + 1)))
+    (hS : ∀ i ∈ S, i ≤ k) : IsAddFreimanIso m S (val '' S) val where
+  bijOn := ⟨by unfold MapsTo; grind, val_injective.injOn, by simp [SurjOn]⟩
+  map_sum_eq_map_sum s t hsS htS hs ht := by
```
Comment (Vierkantor) [inline Mathlib/Combinatorics/Additive/FreimanHom.lean:416]: I tried a few times to come up with a proof that goes via `isAddFreimanIso_image_cast` but I can't figure out a good way to do it. We need some combinators for showing `IsAddFreimanIso` is true under inverses, I think that is true but I can't come up with a proof on the spot. Maybe @YaelDillies has a suggestion (when they return from vacation)?

File: Mathlib/Combinatorics/Additive/FreimanHom.lean [hunk 2]
```diff
@@ -378,48 +381,84 @@ lemma IsMulFreimanIso.prodMap (h₁ : IsMulFreimanIso n A₁ B₁ f₁) (h₂ :
...
+    have := ZMod.isAddFreimanIso_image_cast hm hkmn (val '' S) (by simpa using hS)
+    rw [← this.map_sum_eq_map_sum, Multiset.map_map, Multiset.map_map]
+    · refine IsAddFreimanIso.map_sum_eq_map_sum (B := Nat.cast ∘ val '' S) ?_ hsS htS hs ht
+      -- TODO: The next two lines abuse the definition of `ZMod`.
+      let addEquivZMod : Fin (n + 1) ≃+ ZMod (n + 1) := AddEquiv.refl _
+      have : addEquivZMod ∘ Fin.ofNat (n + 1) = Nat.cast := rfl
+      have : EqOn (⇑addEquivZMod) (Nat.cast ∘ val) S := by
+        rintro ⟨i, hi⟩ -
+        simp [← this, Fin.ext_iff, Nat.mod_eq_of_modEq rfl hi]
```
Comment (Vierkantor) [inline Mathlib/Combinatorics/Additive/FreimanHom.lean]: This is `ZMod.finEquiv`

File: Mathlib/Combinatorics/Additive/FreimanHom.lean [hunk 3]
```diff
@@ -378,48 +381,84 @@ lemma IsMulFreimanIso.prodMap (h₁ : IsMulFreimanIso n A₁ B₁ f₁) (h₂ :
...
-        (u.map val).sum < (n + 1) := Nat.lt_succ_iff.2 <| hkmn.trans' <| by
-      rw [← hu, ← card_map]
-      refine sum_le_card_nsmul (u.map val) k ?_
-      simpa [le_iff_val_le_val, -val_fin_le, Nat.mod_eq_of_lt, aux hm hkmn] using huk
-    exact ⟨congr_arg _, CharP.natCast_injOn_Iio _ (n + 1) (this hsA hs) (this htA ht)⟩
+    IsAddFreimanIso m (Iic (Fin.ofNat (n + 1) k)) (Iic k) val := by
+  have aux : k < n + 1 := Nat.lt_succ_iff.2 <| le_trans (Nat.le_mul_of_pos_left _ hm.bot_lt) hkmn
+  have h := isAddFreimanIso_image_val hm hkmn (Iic (Fin.ofNat (n + 1) k)) <| by
+    simp [le_def, Nat.mod_eq_of_lt aux]
+  suffices (val '' Iic (Fin.ofNat (n + 1) k)) = Set.Iic k by rwa [this] at h
```
Comment (Vierkantor) [inline Mathlib/Combinatorics/Additive/FreimanHom.lean]: Why not `convert`? (I'm adding `symm` as a local fix, but you can push it down into the proof.)
```suggestion
  convert isAddFreimanIso_image_val hm hkmn (Iic (Fin.ofNat (n + 1) k)) <| by
    simp [le_def, Nat.mod_eq_of_lt aux]
  symm
```

File: Mathlib/Combinatorics/Additive/FreimanHom.lean [hunk 4]
```diff
@@ -378,48 +381,84 @@ lemma IsMulFreimanIso.prodMap (h₁ : IsMulFreimanIso n A₁ B₁ f₁) (h₂ :
...
-      val_natCast, aux hm hkmn', Nat.mod_eq_of_lt]
-    simp_rw [← Nat.cast_add_one]
-    rw [Fin.val_cast_of_lt (aux hm hkmn), Nat.lt_succ_iff]
-  · simp [Nat.lt_succ_iff]
+    IsAddFreimanIso m (Iio (Fin.ofNat (n + 1) k)) (Iio k) val := by
+  have aux : k < n + 1 := Nat.lt_succ_iff.2 <| le_trans (Nat.le_mul_of_pos_left _ hm.bot_lt) hkmn
+  have h := isAddFreimanIso_image_val hm hkmn (Iio (Fin.ofNat (n + 1) k)) <| by
+    simp only [ofNat_eq_cast, Set.mem_Iio, lt_def, val_natCast, Nat.mod_eq_of_lt aux]
+    grind
+  suffices (val '' Iio (Fin.ofNat (n + 1) k)) = Set.Iio k by rwa [this] at h
```
Comment (Vierkantor) [inline Mathlib/Combinatorics/Additive/FreimanHom.lean]: Idem:
```suggestion
  convert isAddFreimanIso_image_val hm hkmn (Iio (Fin.ofNat (n + 1) k)) <| by
    simp only [ofNat_eq_cast, Set.mem_Iio, lt_def, val_natCast, Nat.mod_eq_of_lt aux]
    grind
  symm
```

File: Mathlib/Combinatorics/Additive/FreimanHom.lean (hunk 2 above)
Comment (jcommelin) [reply Mathlib/Combinatorics/Additive/FreimanHom.lean]: Thanks, fixed

File: Mathlib/Combinatorics/Additive/FreimanHom.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Additive/FreimanHom.lean:416]: Are you looking for something like #38269 ?

Comment (Vierkantor) [reply Mathlib/Combinatorics/Additive/FreimanHom.lean:416]: Yes, `IsAddFreimanIso.invFunOn` looks like what I was thinking about. Let me see if I can merge these two branches and get a proof to work.

Comment (Vierkantor) [reply Mathlib/Combinatorics/Additive/FreimanHom.lean:416]: I got something to work with no defeq abuse in the proof itself 🎉 

```lean4
-- TODO: upstream and make public
@[simp]
private lemma ZMod.val_finEquiv : ∀ n [NeZero n] (i : Fin n),
    (ZMod.finEquiv n i).val = i.val
  | 0, h, _ => (h.ne _ rfl).elim
  | _ + 1, _, _ => rfl

@[simp]
private lemma ZMod.val_comp_finEquiv [NeZero n] : ZMod.val ∘ ZMod.finEquiv n = Fin.val := by
  ext; apply ZMod.val_finEquiv

@[simp]
private lemma ZMod.finEquiv_mk [NeZero n] {i : ℕ} (hi : i < n) :
    ZMod.finEquiv n ⟨i, hi⟩ = i :=
  ZMod.val_injective _ (by simp [Nat.mod_eq_of_lt hi])

@[simp]
private lemma ZMod.val_finEquiv_symm : ∀ n [NeZero n] (i : ZMod n),
    ((ZMod.finEquiv n).symm i).val = i.val
  | 0, h, _ => (h.ne _ rfl).elim
  | _ + 1, _, _ => rfl

@[simp]
private lemma ZMod.val_comp_finEquiv_symm [NeZero n] :
    Fin.val ∘ (ZMod.finEquiv n).symm = ZMod.val := by
  ext; apply ZMod.val_finEquiv_symm

attribute [local irreducible] ZMod in
/-- **No wrap-around principle**.

A set of elements of `Fin (n + 1)` is `m`-Freiman isomorphic to its image in `ℕ`
if all elements of the set are at most `k` and `m * k ≤ n`, i.e. there is no wrap-around. -/
lemma isAddFreimanIso_image_val (hm : m ≠ 0) (hkmn : m * k ≤ n) (S : Set (Fin (n + 1)))
    (hS : ∀ i ∈ S, i ≤ k) : IsAddFreimanIso m S (val '' S) val := by
  -- Not sure if this deserves to be its own lemma in some form?
  have : (Nat.cast '' (val '' S)) = ZMod.finEquiv (n + 1) '' S := by
    ext x
    simp only [mem_image, ↓existsAndEq, and_true]
    exact exists_congr fun ⟨i, hi⟩ => by simp
  rw [← ZMod.val_comp_finEquiv]
  refine ((ZMod.isAddFreimanIso_image_cast hm hkmn _ (by aesop)).symm
      (g := ZMod.val)
      ?_
      ?_).comp
    (AddEquivClass.isAddFreimanIso (ZMod.finEquiv (n + 1)) ?_)
  · -- The proofs below are a bit too brute force, can we make `aesop`/`grind` smarter?
    rw [mapsTo_image_iff, ZMod.val_comp_finEquiv]
    rintro _ ⟨i, hiS, rfl⟩
    exact ⟨i, hiS, by simp [Nat.mod_eq_of_lt i.is_lt]⟩
  · rw [ZMod.val_comp_finEquiv, this]
    rintro _ ⟨⟨i, hi⟩, hiS, rfl⟩
    simp
  · rw [ZMod.val_comp_finEquiv, this]
    exact Equiv.bijOn_image _
```

**Comment by Vierkantor** [comment]
Since #38269 is maintainer-merged, could you copy the strategy [in my comment here](https://github.com/leanprover-community/mathlib4/pull/38205#discussion_r3153080168) for this PR?
